US07777047B2
4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (2.2 g), 1H-1,2,3-benzotriazol-1-ol (1.2 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.5 g) and N,N-dimethylformamide (30 ml) was stirred at room temperature for 1 hr, and then at 60° C. for 1 hr. 28% Aqueous ammonia (2.0 ml) was added to the reaction solution, and the mixture was stirred at room temperature for 3 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was diluted with ethyl acetate. The mixture was washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained oil was crystallized from ethyl acetate-hexane to give the title compound (1.84 g, yield 84%) as colorless prism crystals. melting point 221-222° C.

reactant | 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 2.2 g | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)O | C15H14N2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 1.2 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.5 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 2.0 ml | N | H3N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.84 g, yield 84% | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)N | C15H15N3O3S2
